US08252806B2
Butyl-[2-(3,5-dimethyl-pyrazol-1-yl)-quinazolin-4-yl]-amine, Hydrochloride (Compound A4)
Was prepared according to Method A from 2,4-dichloroquinazoline, butylamine and 3,5-dimethylpyrazole. Mp. 98.4° C.

reactant | 2,4-dichloroquinazoline | ClC1=NC2=CC=CC=C2C(=N1)Cl | C8H4Cl2N2
reactant | butylamine | C(CCC)N | C4H11N
reactant | 3,5-dimethylpyrazole | CC1=NNC(=C1)C | C5H8N2
product | Butyl-[2-(3,5-dimethyl-pyrazol-1-yl)-quinazolin-4-yl]-amine, Hydrochloride | Cl.C(CCC)NC1=NC(=NC2=CC=CC=C12)N1N=C(C=C1C)C | InChI=1S/C17H21N5.ClH/c1-4-5-10-18-16-14-8-6-7-9-15(14)19-17(20-16)22-13(3)11-12(2)21-22;/h6-9,11H,4-5,10H2,1-3H3,(H,18,19,20);1H
